US04904671
4-(1-Methylimidazo[4,5-c]pyrid-2-yl)butanol
The title compound was prepared by the method of Preparation 18 using 2-hydroxytetrahydropyran and 3-amino-4-(methylamino)pyridine as the starting materials

reactant | 2-hydroxytetrahydropyran | OC1OCCCC1 | C5H10O2
reactant | 3-amino-4-(methylamino)pyridine | NC=1C=NC=CC1NC | C6H9N3
product | 4-(1-Methylimidazo[4,5-c]pyrid-2-yl)butanol | CN1C(=NC=2C=NC=CC21)CCCCO | C11H15N3O
